US07622583B2
4-Chloro-N-[5-chloro-2-(1-hydroxy-2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
A solution of 4-Chloro-N-[5-chloro-2-(1-hydroxy-2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (21 mg) in 6 ml of HCl (4M in dioxane) and 2 mL of water was refluxed for 2 hours. After cooling to rt the mixture was concentrated and was added 3 mL of water. Sodium bicarbonate was added until the final pH was 6. The mixture was extracted with ethyl acetate, dried and concentrated. The residue was further purified via short flash column (8% methanol in DCM) to afford 7.9 mg of title compound as an off white solid. MS: (M+H)/z=520.0.

reactant | 4-Chloro-N-[5-chloro-2-(1-hydroxy-2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 21 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C(N(C=CC1C)O)C)C(F)(F)F | C22H20Cl2F3N3O5S
solvent | HCl | 4M, 6 ml | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 4-Chloro-N-[5-chloro-2-(1-hydroxy-2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 7.9 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)C=1C(N(C=CC1C)O)C)C(F)(F)F | C20H16Cl2F3N3O4S
